US07888364B2
115 mg of NBS was added to a solution of 200 mg of 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(3-hydroxypropylsulfonyl)benzamide and 169 mg of triphenylphosphine in 3 mL of dichloromethane at 0° C. The reaction mixture was stirred at 0˜5° C. for 1 h. The mixture was diluted with dichloromethane, washed with H2O, dried (MgSO4) and evaporated. Purified by prep TLC plate (60% ethyl acetate/hexane) to afford 4-(3-bromopropylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. 60 mg of 4-(3-bromopropylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide and 111 mg of cesium carbonate in 0.5 mL of DMF were heated to 100° C. in a sealed microwave reactor for 20 min. The reaction mixture was evaporated, and the product was purified on reverse phase HPLC to yield 4-(allylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 448.0 (M)+.

reactant | 4-(3-bromopropylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | 60 mg | BrCCCS(=O)(=O)C1=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)Cl | C21H17BrCl2N2O3S
reactant | cesium carbonate | 111 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-(allylsulfonyl)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | C(C=C)S(=O)(=O)C1=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)Cl | C21H16Cl2N2O3S
